US08278331B2
Using a procedure analogous to Example A1, 5-amino-2-hydroxypyridine (10.15 g, 92 mmol) and 2,4-dichloropyridine (13.64 g, 92 mmol) were combined to provide 6-(2-chloropyridin-4-yloxy)pyridin-3-amine (7.09 g, 35% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.12 (m, 1H), 7.61 (m, 1H), 7.26 (m, 1H), 7.0 (s, 1H), 6.97-6.94 (m, 2H), 5.4 (brs, 2H); MS (ESI) m/z: 222.0 (M+H+).

reactant | 5-amino-2-hydroxypyridine | 92 mmol, 10.15 g | NC=1C=CC(=NC1)O | C5H6N2O
reactant | 2,4-dichloropyridine | 92 mmol, 13.64 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
product | 6-(2-chloropyridin-4-yloxy)pyridin-3-amine | 7.09 g, 35% yield | ClC1=NC=CC(=C1)OC1=CC=C(C=N1)N | C10H8ClN3O
